US05426111
Step 1: 3-allyloxymethylbromobenzene.
The desired compound is prepared by reaction of 3-bromobenzyl alcohol with NaH and allyl bromide.

reactant | 3-bromobenzyl alcohol | BrC=1C=C(CO)C=CC1 | C7H7BrO
reactant | NaH | [H-].[Na+]
reactant | allyl bromide | C(C=C)Br | C3H5Br
product | 3-allyloxymethylbromobenzene | C(C=C)OCC=1C=C(C=CC1)Br | C10H11BrO
